US06251911B1
5.8 g (42.1 mmol) of triethylamine hydrochloride and 6.0 g (92.3 mmol) of sodium azide are added to a solution of 4.0 g (30.5 mmol) of 3cyano-benzaldehyde in 100 ml of 1-methyl-2-pyrrolidone and heated at 110° C. for 1.5 hours (argon atmosphere). When cool the reaction mixture is poured into 0.6 liter of ice/37% HCl (20:1) and stirred thoroughly to complete the reaction. Extraction with 3 portions of ethyl acetate, washing the organic phases with 3× water and brine, drying (Na2SO4), concentration by evaporation and stirring in diethyl ether yield 3-(tetrazol-5-yl)-benzaldehyde; m.p. 185-189° C.; TLC: Rf=0.13 (CHCl3/methanol/H2O/acetic acid=85:13:1.5:0.5).

reactant | triethylamine hydrochloride | 42.1 mmol, 5.8 g | Cl.C(C)N(CC)CC
reactant | sodium azide | 92.3 mmol, 6.0 g | [N-]=[N+]=[N-].[Na+]
reactant | 3cyano-benzaldehyde | 30.5 mmol, 4.0 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
solvent | 1-methyl-2-pyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 3-(tetrazol-5-yl)-benzaldehyde | N1N=NN=C1C=1C=C(C=O)C=CC1 | C8H6N4O
